US07091228B2
A suspension of N-(4-iodophenyl)-N′-(4-methylphenyl) thiourea (0.62 g, 4.68 mmol) in chloroform (23 mL) was treated with a solution of bromine (2.65 g, 16.59 mmol) in chloroform (1 mL). The reaction mixture was stirred at rt for 5 minutes and then heated at 50° C. for 5 minutes. Then the reaction mixture was allowed to cool, and was treated with sulphurous acid until the orange color disappeared. The reaction mixture was neutralized by treatment with conc. ammonium hydroxide. More chloroform was then added to dissolve the precipitate. The layers was separated, and the organic layer was washed with water and brine, dried over sodium sulfate, filtered and, concentrated to give N-(4-iodophenyl)-6-methyl-1,3-benzothiazol-2-amine (0.6 g, 97%). 1H NMR (400 MHz, DMSO-d6) δ 2.36 (s, 3H), 7.12 (m, 1H), 7.48 (d, 1H), 7.60 (m, 3H), 7.65 (m, 2H), 10.50 (s, 1H).

reactant | N-(4-iodophenyl)-N′-(4-methylphenyl) thiourea | 4.68 mmol, 0.62 g | IC1=CC=C(C=C1)NC(=S)NC1=CC=C(C=C1)C | C14H13IN2S
reactant | bromine | 16.59 mmol, 2.65 g | BrBr | Br2
reactant | sulphurous acid | S(O)(O)=O | H2O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | 23 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-iodophenyl)-6-methyl-1,3-benzothiazol-2-amine | 0.6 g, 97% | IC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)C | C14H11IN2S
